plaintext
* SPICE Netlist for the Given Circuit
Vi 11 12 DC 0
Rs 5 11 1k        ; Resistor Rs
Cgs1 5 8 1uF      ; Capacitor Cgs1
Gm1 8 7 5 0.5m    ; Current Source Gm1
Cdb1 5 7 1uF      ; Capacitor Cdb1
Rd1 6 7 1k        ; Resistor Rd1
V2 6 2 DC 0       ; Voltage Source V2
Cgs2 2 9 1uF      ; Capacitor Cgs2
Gm2 9 3 2 0.5m    ; Current Source Gm2
RL2 9 3 1k        ; Resistor RL2
Vout 3 0 DC 0     ; Output Voltage Vout

.model NMOS NMOS
.model PMOS PMOS
.end